US04230714
A mixture consisting of 2-chloromethylquinoline hydrochloride (10.0 g.), imidazole (3.2 g.) and sodium carbonate (14.8 g.) in N,N-dimethylformamide (100 ml.) was heated on a steam bath for a period of seven hours and then evaporated. The residue was taken up in chloroform and the resulting solution was filtered to give a clear filtrate. Evaporation of the latter liquid while under reduced pressure then gave a solid substance, which was subsequently crystallized from chloroform/petroleum ether (b.p. 60°-80° C.) and then recrystallized from diethyl ether to give pure 2-(1-imidazol-1-ylmethyl)quinoline (yield, 2.10 g.), m.p. 106°-107° C.

reactant | 2-chloromethylquinoline hydrochloride | 10.0 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | imidazole | 3.2 g | N1C=NC=C1 | C3H4N2
reactant | sodium carbonate | 14.8 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(1-imidazol-1-ylmethyl)quinoline | 2.10 g | N1(C=NC=C1)CC1=NC2=CC=CC=C2C=C1 | C13H11N3
